US06316477B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfonyl-3-pyrazolecarboxamide oxime (Compound No. 1-29)
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfonylpyrazole (0.86 g, 1.90 mmol) was dissolved in 10 ml of 1,4-dioxane and hydroxylamine hydrochloride (0.22 g, 3.17 mmol) and triethylamine (0.45 ml, 3.24 mmol) were added, and then the mixture was stirred at room temperature. Ten hours after stirring, hydroxyamine hydrochloride (0.08 g, 1.2 mmol) and triethylamine (0.14 ml, 1.01 mmol) were further added. After the completion of adding, the solution was stirred at room temperature for 23 hours. Thirty milliliters of water and 15 ml of an aqueous saturated sodium chloride solution were added and then the reaction mixture was extracted twice with 30 ml of ethyl acetate. The ethyl acetate layer was washed with 20 ml of an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off to obtain a colorless crystal. This crystal was washed with a hexane-ethyl acetate mixed solvent (volume ratio=1:1) to obtain 0.82 g (1.68 mmol) of the title compound as a colorless crystal. Yield 89%.

reactant | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfonylpyrazole | 1.90 mmol, 0.86 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C12H4Cl2F6N4O2S
reactant | hydroxylamine hydrochloride | 3.17 mmol, 0.22 g | Cl.NO
reactant | triethylamine | 3.24 mmol, 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | hydroxyamine hydrochloride | 1.2 mmol, 0.08 g | Cl.ON
reactant | triethylamine | 1.01 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | 15 ml | [Cl-].[Na+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | Thirty milliliters | O | H2O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfonyl-3-pyrazolecarboxamide oxime | 1.68 mmol, 0.82 g, Yield 89% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N)=NO)S(=O)(=O)C(F)(F)F | C12H7Cl2F6N5O3S
